datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:0]([O:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([C:6]([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])([H:8])[H:17],67.7808
[C:0]([C:1]([S:2][C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:15]>>[C:0]([C:1]([H:8])[H:9])([H:5])([H:6])[H:7].[S:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:15],16.0247
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][C:13]([H:14])([H:15])[H:16],15.39712
[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[H:5][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],-21.7568
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([C:12](=[S:13])[H:21])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:17])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])[C:12](=[S:13])[H:21])([H:14])([H:15])[H:16],56.2748
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]=[S:13])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])=[S:13],53.5552
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:9]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])[H:10],129.314888
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[S:8])[H:11])([H:9])[H:10]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6]([C:7](=[S:8])[H:11])([H:9])[H:10],75.7304
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19](=[C:20]=[C:21]([H:23])[H:24])[H:22]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:19](=[C:20]=[C:21]([H:23])[H:24])[H:22],20.92
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:16])([C:10](=[S:11])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:15])([H:4])[H:5].[C:7]([C:8]([S:9][H:16])[C:10](=[S:11])[H:17])([H:12])([H:13])[H:14],53.1368
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19],64.4336
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:25])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:25])[H:24])[H:7])([H:5])[H:6],69.4126
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21],17.86568
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:9],59.9149
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5]([O:6])([H:7])([H:8])[H:9]>>[C:0]([O:1][H:7])([H:2])([H:3])[H:4].[C:5](=[O:6])([H:8])[H:9],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:19])[H:7])([H:5])[H:6].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21],63.5968
[C:0]([C:1]([O:2][O:3][H:11])([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([O:2][O:3][H:11])([H:10])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[O:6]1.[O:7][H:16],75.312
